US07612211B2
A. 2-bromo-N-tert-butyl-4-trifluoromethyl-benzenesulfonamide
To a solution of 2-bromo-4-(trifluoromethyl)benzenesulfonyl chloride (10 g, 0.031 mol) in CH2Cl2 (100 mL) was added t-butylamine (8.0 mL, 0.076 mol) at 0° C. The reaction mixture was allowed to warm to room temperature, and stirred for 30 min. A white precipitate formed and was filtered, and the filtrate was concentrated in vacuo to afford the title compound as a yellow oil (11 g, 100%).

reactant | 2-bromo-4-(trifluoromethyl)benzenesulfonyl chloride | 0.031 mol, 10 g | BrC1=C(C=CC(=C1)C(F)(F)F)S(=O)(=O)Cl | C7H3BrClF3O2S
reactant | t-butylamine | 0.076 mol, 8.0 mL | C(C)(C)(C)N | C4H11N
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-bromo-N-tert-butyl-4-trifluoromethyl-benzenesulfonamide | 11 g, 100% | BrC1=C(C=CC(=C1)C(F)(F)F)S(=O)(=O)NC(C)(C)C | C11H13BrF3NO2S
